US07176224B2
3-(4-Hydroxy-phenyl)-2-(2-methoxy-phenoxy)-2-methyl-propionic acid ethyl ester:
3-(4-Benzyloxy-phenyl)-2-(2-methoxy-phenoxy)-2-methyl-3-(2,2,2-trifluoro-acetoxy)-propionic acid ethyl ester was dissolved in ethyl acetate (350 mL), treated with 5% palladium on carbon (8.77 g), and stirred under an atmosphere of hydrogen for 48 h. The suspension was filtered through celite and concentrated in vacuo. The residue was purified by flash column chromatography (25% ethyl acetate in hexanes) to provide the title compound as a light yellow oil (1.73 g, 25%). 1H NMR (400 MHz, CDCl3): δ 7.12 (d, 2H, J=6.65 Hz), 6.98–6.93 (m, 5H), 4.24–4.15 (m, 2H), 3.75 (s, 3H), 3.23 (d; 1H, J=13.69 Hz), 3.13 (d, 1H, J=13.69 Hz), 1.30 (s, 3H), 1.22 (t, 3H, J=7.43 Hz). MS [EI+] 331 (M+H)+, [EI−] 329 (M−H)+. Rf=0.14 in 25% ethyl acetate in hexanes.

reactant | 3-(4-Benzyloxy-phenyl)-2-(2-methoxy-phenoxy)-2-methyl-3-(2,2,2-trifluoro-acetoxy)-propionic acid ethyl ester | C(C)OC(C(C(OC(C(F)(F)F)=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)(C)OC1=C(C=CC=C1)OC)=O | C28H27F3O7
solvent | ethyl acetate | 350 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 8.77 g | [Pd] | Pd
product | 3-(4-Hydroxy-phenyl)-2-(2-methoxy-phenoxy)-2-methyl-propionic acid ethyl ester | 1.73 g, 25% | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=C(C=CC=C1)OC)=O | C19H22O5
